* C:\Users\Kasriel Lewis\Dropbox\Eagle Projects\Spice Modles\E-Match Charging Circuit.sxsch
*#SIMETRIX
V1 V1_P 0 5 Sine(0 5 200u 0 0)
V3 Q1_S 0 5
R1 Q1_S Q1_G 2.2k
R3 R3_P R3_N 50
R4 Q3_B V1_P 10k
X$Q1 R3_P Q1_G Q1_S DI_DMP3035LSS pinnames: D G S
Q3 Q1_G Q3_B 0 0 BC239B
C1 R3_N 0 1 IC=0  BRANCH={IF(ANALYSIS=2||ANALYSIS=5,1,0)}
.GRAPH R3_N axisType="auto" persistence=-1 curveLabel="Cap Input" xLog="auto" yLog="auto"  nowarn=true
.GRAPH Q1_G axisType="auto" persistence=-1 curveLabel="Charge Control" xLog="auto" yLog="auto"  nowarn=true
.GRAPH Q3_B axisType="auto" persistence=-1 curveLabel="Pulsing" xLog="auto" yLog="auto"  nowarn=true
.GRAPH R3_P axisType="auto" persistence=-1 curveLabel="Charger Output" xLog="auto" yLog="auto"  nowarn=true
.TRAN 2k
*.DC MODEL=V1 PARAM=voltage 0 0 0


.LIB C:\Users\Kasriel Lewis\Downloads\DMN3033LSD.txt

.LIB ..\..\..\Downloads\DMN3033LDM.txt

