

V1 R1_P 0 -5
V2 V2_P 0 0
V3 Q1_S 0 0
R1 R1_P R1_N 1K
R2 R1_P R2_N 1K
V4 V4_P 0 0
V5 Q3_D 0 0
R3 R1_P R3_N 1K
V6 V6_P 0 0
V7 Q2_S 0 0
x$Q1 R1_N V2_P Q1_S DI_DMP3035LSS
x$Q2 V6_P R3_N Q2_S DI_DMP3035LSS
x$Q3 Q3_D V4_P R2_N DI_DMP3035LSS
.op
.options optimise=0 nodelimit=100000





